US07361671B2
A solution of (5-chloromethyl-2-methyl-thiophen-3-yl)-acetic acid methyl ester (2.6 g, 12.1 mmol) and potassium cyanide (1.7 g, 25.4 mmol) in DMF (33 mL) is stirred for 14 h at room temperature then warmed to 50° C. for 0.5 h. After cooling, the mixture is poured into a mixture of CHCl3 and saturated aq NaCl and extracted with CHCl3. The combined extracts are washed with saturated aq NaCl, dried over MgSO4, filtered and concentrated in vacuo. The resulting residue is purified by flash chromatography (silica gel, 10-50% ethyl acetate in heptane) to give (5-cyanomethyl-2-methyl-thiophen-3-yl)-acetic acid methyl ester (1.1 g, 43.4%): 1H NMR (CDCl3, 300 MHz) δ 6.83 (s, 1 H), 3.80 (s, 2 H), 3.70 (s, 3 H), 3.50 (s, 2 H), 2.38 (s, 3 H).

reactant | (5-chloromethyl-2-methyl-thiophen-3-yl)-acetic acid methyl ester | 12.1 mmol, 2.6 g | COC(CC1=C(SC(=C1)CCl)C)=O | C9H11ClO2S
reactant | potassium cyanide | 25.4 mmol, 1.7 g | [C-]#N.[K+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 33 mL | CN(C)C=O | C3H7NO
product | (5-cyanomethyl-2-methyl-thiophen-3-yl)-acetic acid methyl ester | 1.1 g, 43.4% | COC(CC1=C(SC(=C1)CC#N)C)=O | C10H11NO2S
